Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pedestrian MVA
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This a ___ with HTN, recent diagnosis of thombocytopenia, stable 
subdural hematoma, who presents today after a pedestrian MVA 
yesterday, with + head strike. She d/ced on ___ after a 5-day 
admission for MVA when she was hit in her taxi cab by a trailer. 
During that admission she was found to have a stable SDH, 
managed non-operatively, and thrombocytopenia. Platelets was in 
the ___, s/p 3U platelet tranfusion, 1 IVIG, and 4-day course 
of dexamethasone 40mg, and discharged with a platelet of 129.  
.  
In the interim since her previous discharge, pt reports that she 
has had a unchanging headachde. She was seen at the scheduled 
out-pt followups by Dr. ___ ___ PCP, was noted to 
have plt count of 38 from 129 at dicharge. She was started on 
60mg of prednisone qday. First dose was 2days ago.  
.  
Pt reports that she was walking across the street yesterday at a 
cross-walk when she was invovled in a witnessed, pedestrian MVA. 
She reports being hit on the R-flank, hitting the hood of the 
car, then ground, with positive right-sided head strike. She 
denies LOC. She reports headache and pain on her right flank, 
abdomen. She was initially taken to ___ by 
ambulance. CT was normal. she requested to be transferred to 
___. 
.
In the ED, her H/A resolved. Complaining of new, sharp bilateral 
lower quadrant pain & lower back pain. Grossly neurologically 
intact. CT-HEAD showed stable SDH. She received dilaudid 1mg/1mL 
x2 6-hours apart. Upon transfer to the floor, pt deneis n/v/d, 
CP, headaches, dizziness, diploplia, weakness, dysarthria, or 
gait changes.  

 
Past Medical History:
1) Hypertension
2) Exploratory laparotomy for pelvic pain (negative)
3) appendectomy age ___
4) vitamin D deficiency
5) status post laparoscopy for pelvic pain, uncertain when
6) staus post trigger finger release
7) last colonoscopy ~1 mo ago, polyp removed, she was told it 
was
benign
8) premature ovarian failure age ___, no periods since

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Physical Exam (Upon Transfer):  
Vitals 97.8, 152/86, 62, 20, 98% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric b/l periorbital bruising (improving from 
previous discharge on ___, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Back: diffuse pain at rest and upon palpation most prenounced on 
Right flank. No ecchymosis.  
Abdomen: soft, tender, non-distended, bowel sounds present  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 1+ 
edema  
Skin: no new ecchymosis, abrasions  

Discharge Exam:
Vitals 98.8, 98.8, 120-152/70-90, 62-72, ___, 98-100% RA
General: AOx3, no acute distress  
HEENT: Sclera anicteric b/l periorbital bruising (improving from 
previous discharge on ___, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Back: diffuse pain at rest and upon palpation most prenounced on 
Right flank. No ecchymosis.  
Abdomen: soft, tender, non-distended, bowel sounds present  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 1+ 
edema  
Skin: no new ecchymosis, abrasions  

 
Pertinent Results:
ADMISSION LABS:
CBC:
___ 01:20PM BLOOD WBC-12.8* RBC-3.94* Hgb-11.4* Hct-34.8* 
MCV-88 MCH-29.1 MCHC-32.9 RDW-14.4 Plt Ct-41*#
___ 01:20PM BLOOD Plt Ct-41*#
.
CHEM:
___ 03:00AM BLOOD Glucose-129* UreaN-20 Creat-0.8 Na-135 
K-4.1 Cl-104 HCO3-19* AnGap-16
.
DISCHARGE LABS:
CBC:
___ 06:49AM BLOOD WBC-13.4* RBC-3.51* Hgb-10.1* Hct-30.3* 
MCV-86 MCH-28.6 MCHC-33.2 RDW-14.0 Plt Ct-50*
___ 06:49AM BLOOD Plt Ct-50*
.
CHEM:
___ 06:49AM BLOOD Glucose-103* UreaN-21* Creat-0.8 Na-142 
K-3.9 Cl-106 HCO3-24 AnGap-16
.
IMAGING:
CT-HEAD:
IMPRESSION: 
1. Evolution of small left subdural hemorrhage. 
2. No evidence of new intracranial hemorrhage or fractures. 

CT-C-spine:
No fractures.
.
CT-ABD:
1. Acute proctocolitis. 
2. Degenerative lumbar spine disease. 
3. Left renal atrophy. 
.
CXR:
Moderate cardiomegaly. No radiographic evidence of injury.

 
Brief Hospital Course:
Assessment:This is a ___ with HTN, thrombocytopenia, 
stable/slightly smaller SDH, who is admitted today for a second 
MVA, without any abrasions or external bruises on exam and 
negative imaging for bleeds or fractures, CT-HEAD showed 
resolving SDH. She was observed o/n and discharged home in 
stable condition. 
.  
ACTIVE ISSUES:
#SUBDURAL HEMATOMA in the setting of recent head-strike from 
last admission (___): CT showed a 6mm stable SAH from 
previous 7mm. No new incranial process or fracture noted on this 
admission.  We continued seizure rophylaxis (keppra 500mg BID) 
per previous neurosurgery rec until outpatient f/u appointment 
on ___. No need for repeat imaging unless change in exam, 
scheduled CT as outpatient on ___. On atenolol 25mg qday for 
goal SBP <160 and bowel regimen (senna and colace) to decrease 
straining during bowel movements. 
.  
#THROMBOCYTOPENIA: Incidentally discovered at last admission 
(___). Previous inpatient workup unrevealing (HIV negative). 
Currently being managed as ITP. Followed by PCP and outpatient 
heme. Started on prednisone 60mg qday 2 days prior to admission. 
Discharge platelet trended up to 51.
.  
#BACK PAIN: In the setting of MVA. Manage with oxycodone 5 
q6hr/prn pain.  
.
# Black stool: No need to guaiac since pt had known proctitis on 
CT-abdomen, no other intra-abdominal abnl. She also had a 
+guaiac at last hospital visit ___ to 
thrombocytopenia and normal colonoscopy ~2months ago at OSH. 
This will mentioned to PCP for OSH followed up.  
.
INACTIVE ISSUES:
#HYPERTENSION:  SBP goal <160. Pt was mildly hypertensive in ED, 
but normalized on the floor. We continue dAtenolol 25 mg PO/NG 
DAILY
.  
# VITAMIN D DEF:  Continued home vitamin D and calcium 
supplements. 
.
TRANSFER OF CARE:
1. ? GI bleed: Per patient, she had a normal colonoscopy with 
removal of benign 
polyp 1 month ago and has f/u colonoscopy in ___, although 
malignancy may be unmasked by thrombocytopenia. Admission ABD-CT 
showed proctocolitis. We spoke with PCP's office at ___ (Dr. 
___. Pt has an followup appointment scheduled for 
___ at 2:30pm. Pt does not have ___ gastroenterologist. We 
recommended further workup for this issue and possible GI 
referral. 
2. Resolving SDH-If she develops visions changes, new/worsening  
headache, gait abnormality, confusion, or any other neurological 
 symptoms may indicate expansion of SDH. Pt will need emergent 
CT and evulation.
3. Thrombocytopenia-please f/u platelet counts to monotiro  
improvement. If pt continues to be severely thrombocytopenic, 
she may need BM biopsy for evaluation and/or splenectomy 
depending on BM results. 
4. Renal hypodensity of L upper pole likely a cyst incidentally 
discovered on last admission-please follow on imaging.  

 
Medications on Admission:
1. Keppra 500mg BID  
2. Prednisone 60mg qday  
3. Atenolol 25 mg qday  
4. oxycodone 5mg q6hr/prn headache  
5. docusate sodium 100mg BID  
6. senna 8.6mg daily  
7. acetaminophen 325mg q6hr/prn headache 

 
Discharge Medications:
1. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. senna 8.6 mg Tablet Sig: ___ Tablets PO DAILY (Daily).  
6. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
7. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain for 3 days.  
8. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO MWF (___).  
10. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO DAILY (Daily).  
11. Tylenol ___ mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for pain: do not exceed 3g/day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
1. MVA

Secondary diagnosis:
1. Stable Subdural Hematoma
2. Thrombocytopenia
3. HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
.
It was pleasure participating in your care when you were 
admitted after a pedestrian motor vehicle accident, in which you 
were hit by a car. You did not have any external injuries and 
bruises. There was no sign of fractures or internal bleeding on 
imaging; you subdural hematoma appeared to be resolving from 
your last admission. We managed your pain with oral pain 
medication. 
.
You did report darkening of your stool during this admission. We 
were reassured by the fact that imaging of your abdomen did not 
show any bleeding. The imaging did show a condition called 
proctocolitis, which is inflammation of your rectum and colon. 
You also had a guaiac positive stool on your last admission in 
the setting of low platelets. We were reassure that, according 
to you, your recent colonoscopy at ___ 
approximately two months ago with normal findings. We notified 
your primary care physician at ___ of your course and our 
findings. He has been notified that you need a gastroenterology 
referral for further evaluation and followup. 
.
The new medications you will go home on are:
1. Ranitidine: this is a medication you should take while you 
are taking prednisone to prevent any stomach ulcers.
2. Bactrim: this is a medication you should take while on 
prednisone for the prevention of any secondary infections

 
Followup Instructions:
___